US06667342B1
2-(4-Aminophenyl)-1,3-dioxolane
To a mixture of 4-nitrobenzaldehyde (7.55 g, 50 mmol) and ethyleneglycol (4.65 g, 75.0 mmol) in toluene (125 ml) was added 4-toluenesulphonic acid (100 mg, 0.5 mmol) and the mixture heated under reflux using a Dean-Stark water separator for 2 h. The solution was evaporated to dryness, the residue dissolved in EtOAc (125 ml), washed with saturated sodium hydrogen carbonate solution, dried and evaporated to dryness. The residue was dissolved in ethanol (200 ml) and hydrogenated over 10% Pd/C for 4 h at ambient temperature. The catalyst was removed by filtration, the ethanol evaporated to yield the title compound which was used without further purification.

reactant | 4-nitrobenzaldehyde | 50 mmol, 7.55 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | ethyleneglycol | 75.0 mmol, 4.65 g | C(CO)O | C2H6O2
reactant | 4-toluenesulphonic acid | 0.5 mmol, 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Aminophenyl)-1,3-dioxolane | NC1=CC=C(C=C1)C1OCCO1 | C9H11NO2
